US07262185B2
To a solution of 3-bromo-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine (2.84 g) in THF (50 ml), n-butyllithium (1.6M hexane solution, 28 ml) was added dropwise at −78° C. The mixture was stirred for 1 hour at −78° C., DMF (5 ml) was added to the mixture, and the mixture was stirred for 0.5 hour at room temperature. To the reaction solution was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The obtained residue was separated and purified by column chromatography (ethyl acetate:hexane 1:1→ethyl acetate), to give 3-formyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine (1.48 g) as colorless oil.

reactant | 3-bromo-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine | 2.84 g | BrC1=CN=C2N1CCCC2 | C7H9BrN2
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | n-butyllithium | 1.6M, 28 ml | C(CCC)[Li]
product | 3-formyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine | 1.48 g | C(=O)C1=CN=C2N1CCCC2 | C8H10N2O
